US09085583B2
Synthesis of methyl 1-(1-phenylethyl)-1H-indazole-3-carboxylate
To a solution of methyl 1H-indazole-3-carboxylate (2.0 g, 11.4 mmol) in acetone (50 mL), were added potassium carbonate (1.6 g, 11.4 mmol) and (1-bromoethyl)benzene (2.2 g, 11.9 mmol). Then the mixture was refluxed for 12 hours. The reaction mixture was concentrated to give a residue. To the residue was added water (50 mL), extracted with dichloromethane (50 mL×3). The organic layers were combined, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give a residue. The residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=5:1) to afford two isomers.

reactant | methyl 1H-indazole-3-carboxylate | 11.4 mmol, 2.0 g | N1N=C(C2=CC=CC=C12)C(=O)OC | C9H8N2O2
reactant | potassium carbonate | 11.4 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | (1-bromoethyl)benzene | 11.9 mmol, 2.2 g | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | water | 50 mL | O | H2O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | methyl 1-(1-phenylethyl)-1H-indazole-3-carboxylate | C1(=CC=CC=C1)C(C)N1N=C(C2=CC=CC=C12)C(=O)OC | C17H16N2O2
